US04861778
2,3-Dihydrophthalazine-1,4-dione(8.1 g; 0.05 mol) was suspended in 100 ml of absolute ethanol containing a catalytic amount of sodium ethoxide. Ethyl acrylate (5.0 g; 0.05 mol) was added to the suspension and the mixture was reacted under reflux for 42 hours. The hot reaction mixture was filtered and the solvent removed in vacuo. The product thus formed was dissolved in sodium hydroxide (0.07 M; 250 ml) and stirred overnight. The solution was acidified by the addition of hydrogen chloride resulting in the formation of a white crystalline solid. The solid was recrystallized from water to produce the product, 2-(2'-carboxyethyl)-2,3-dihydrophthalazine-1,4-dione.

reactant | 2,3-Dihydrophthalazine-1,4-dione | 0.05 mol, 8.1 g | C1(NNC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Ethyl acrylate | 0.05 mol, 5.0 g | C(C=C)(=O)OCC | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 0.07 M, 250 ml | [OH-].[Na+]
product | 2-(2'-carboxyethyl)-2,3-dihydrophthalazine-1,4-dione | yield of 26% | C(=O)(O)CCN1C(C2=CC=CC=C2C(N1)=O)=O | C11H10N2O4
